US05449787
Cis-3-diethylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine
Into 2 ml of DMF were dissolved 200 mg (0.68 mmol) of cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcaronyl)pyrrolidine hydrochloride and 0.11 ml (0.81 mmol) of triethylamine, and 0.11 ml (1.36 mmol) of ethyl iodide was added dropwise under ice cooling. After stirring overnight at room temperature, insolubles were filtered off. After addition of 40 ml of water, the solution was made alkaline with sodium bicarbonate, which was then extracted with methylene chloride. After dried over anhydrous magnesium sulfate, the solution was concentrated under reduced pressure to obtain crude oil. This was subjected to silica gel column chromatographic purification (methylene chloride:methanol=10:1) to obtain 100 mg (46.9%) of aimed compound (pale yellow oil).

reactant | cis-3-amino-4-methyl-1-(1-methylindazol-3-ylcaronyl)pyrrolidine hydrochloride | 0.68 mmol, 200 mg | Cl.N[C@@H]1CN(C[C@@H]1C)C12C(C(CCC1C2(C)C)(C)C2=NN(C1=CC=CC=C21)C)=O
reactant | triethylamine | 0.81 mmol, 0.11 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl iodide | 1.36 mmol, 0.11 ml | C(C)I | C2H5I
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
product | Cis-3-diethylamino-4-methyl-1-(1-methylindazol-3-ylcarbonyl)pyrrolidine | 100 mg, 46.9% | C(C)N([C@@H]1CN(C[C@@H]1C)C(=O)C1=NN(C2=CC=CC=C12)C)CC | C18H26N4O
